US04588828
(C) 6-[(Tetrahydro-2H-pyran-2-yl)oxy]-4-hexen-1-yn-3-ol
A stirred, saturated solution of acetylene in 22 ml of dry tetrahydrofuran at -78° C. was treated dropwise with n-butyllithium (11.9 mmole). After stirring 10 minutes at -78° C., 4-hydroxy-2-butenal, tetrahydropyranyl ether (1.83 g, 10.8 mmole) in 3 ml of dry tetrahydrofuran was added dropwise. After stirring at -78° C., the reaction mixture was warmed to room temperature. Water (4 ml) was added followed by anhydrous potassium carbonate until the aqueous phase became pasty. The organic phase was decanted and the aqueous layer was washed with ether. The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. Flash chromatography of the crude product (LPS-1 silica gel; ethyl acetate-hexane 1:1) afforded the title compound which was distilled (bulb-to-bulb) to provide pure material (1.55 g).

reactant | acetylene | C#C | C2H2
reactant | n-butyllithium | 11.9 mmole | C(CCC)[Li]
reactant | 4-hydroxy-2-butenal | OCC=CC=O | C4H6O2
reactant | tetrahydropyranyl ether | 10.8 mmole, 1.83 g | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | Water | 4 ml | O | H2O
product | 6-[(Tetrahydro-2H-pyran-2-yl)oxy]-4-hexen-1-yn-3-ol | O1C(CCCC1)OCC=CC(C#C)O | C11H16O3
